US06911453B2
4-(4-Bromo-phenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydro-isoquinoline;
5.45 g (14.0 mmol) of 1-(4-bromo-phenyl)-2-[(2,4-dichloro-benzyl)-methyl-amino]-ethanol was introduced into 15 ml of dichloromethane and, at 0° C., 15 ml of conc. H2SO4 are added. After stirring at room temperature for 2 hours, the reaction mixture was poured onto ice and made alkaline with 6 N NaOH. Three extractions with dichloromethane were carried out. The combined organic phases were dried with MgSO4 and concentrated. For further purification, the residue was chromatographed on silica gel, resulting in 2.6 g of the title compound as a yellowish oil. 4-(4-Bromo-phenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinoline, Hydrochloride;

reactant | 1-(4-bromo-phenyl)-2-[(2,4-dichloro-benzyl)-methyl-amino]-ethanol | 14.0 mmol, 5.45 g | BrC1=CC=C(C=C1)C(CN(C)CC1=C(C=C(C=C1)Cl)Cl)O | C16H16BrCl2NO
reactant | H2SO4 | 15 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | 6 N | [OH-].[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-(4-Bromo-phenyl)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydro-isoquinoline | 2.6 g | BrC1=CC=C(C=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C16H14BrCl2N
